US05006535
Ethyl 8-methoxy-4-(4-methoxy-3-thienylamino)quinoline-3-carboxylate
Ethyl 8-methoxy-4-chloroquinoline-3-carboxylate (1.5 g, 0.0056 mol) and 4-methoxy-3-aminothiophene (1.46 g, 0.0112 mol) in 1,4 dioxan (20 ml) were heated under reflux for 4 hours. The solid which had formed was collected by filtration and dried. The solid was dissolved in chloroform, washed with sodium carbonate solution (50 ml), then water, dried over magnesium sulphate, filtered and evaporated under reduced pressure to give a yellow solid. Recrystallization from ethyl acetate gave the title compound, (1.53 g) m.p. 176°-178°.

reactant | Ethyl 8-methoxy-4-chloroquinoline-3-carboxylate | 0.0056 mol, 1.5 g | COC=1C=CC=C2C(=C(C=NC12)C(=O)OCC)Cl | C13H12ClNO3
reactant | 4-methoxy-3-aminothiophene | 0.0112 mol, 1.46 g | COC=1C(=CSC1)N | C5H7NOS
solvent | 1,4 dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | Ethyl 8-methoxy-4-(4-methoxy-3-thienylamino)quinoline-3-carboxylate | 1.53 g | COC=1C=CC=C2C(=C(C=NC12)C(=O)OCC)NC1=CSC=C1OC | C18H18N2O4S
